US04791103
A mixture of 3.0 g of 6-chloropurine riboside, 2.0 g of 1-indanylmethylamine as prepared in Example A hereinafter and 3.18 g of triethylamine are refluxed in 75 ml of absolute ethanol under nitrogen for 24 hours. The reaction is cooled to room temperature, precipitated nucleoside is filtered, washed with ethanol and dried affording 2.78 g (67%) of N6 -[2,3-dihydro-1H-inden-1-yl]methyl-adenosine having a melting point of 137°-139° C. Anals. calcd. for C20H23N5O4 ; Found: C=60.44; H=5.83; N=17.62 C=60.81; H=5.70; N=17.35.

reactant | 6-chloropurine riboside | 3.0 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 1-indanylmethylamine | 2.0 g | C1(CCC2=CC=CC=C12)CN | C10H13N
reactant | triethylamine | 3.18 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | N6 -[2,3-dihydro-1H-inden-1-yl]methyl-adenosine | 2.78 g, 67% | C1(CCC2=CC=CC=C12)CNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C20H23N5O4
